US04876257
6-[2-Hydroxy-3-(1-(diphenylmethyl)piperazin-4-yl)propan-1-yl]thiopurine Hemihydrate
To DMF (6 mL), sodium hydroxide pellets (200 mg, 5 mmol) and 6-mercaptopurine monohydrate (0.85 g, 5 mmol) were added. The reaction mixture was stirred and heated to 80° C. for 30 min under nitrogen. The almost clear solution was cooled to room temperature and 1-(1-chloro-2-hydroxy-3-propanyl)-4-(diphenylmethyl)piperazine (1.72 g, 5 mmol) in DMF (10 mL) was added within 5 min. After stirring under nitrogen for 72 h, the mixture was filtered through Celite on a sintered glass funnel and the funnel was rinsed with DMF (2×5 mL). Evaporation of the solvent from the filtrate at 1.0 mm Hg at 50° C. gave a residue which was triturated with 10% methanol/methylene chloride. Filtration removed unreacted 6-mercaptopurine (0.5 g). The solution was purified using flash chromatography on silica gel using 10% methanol/methylene chloride as eluant. The product was isolated by concentration of the desired fractions and purified by trituration with n-pentane to give the title compound (0.35 g, 15.0%), mp 105°-110° C. (dec). DCI/MS M+1 461. 100 MHz 1H NMR (DMSO-d6) δ: 8.6 (s, 1H), 8.18 (s, 1H), 7.2-7.4 (m, 10H), 4.21 (s, 1H) 4.20 (m, 1H), 3.5 (m, 2H), 2.6 (m, 2H), 2.5-2.6 (m, 8H).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-mercaptopurine monohydrate | 5 mmol, 0.85 g | O.SC1=C2NC=NC2=NC=N1
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(diphenylmethyl)piperazine | 5 mmol, 1.72 g | ClCC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C20H25ClN2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-[2-Hydroxy-3-(1-(diphenylmethyl)piperazin-4-yl)propan-1-yl]thiopurine Hemihydrate | 0.35 g, 15.0% | O.OC(CSC1=C2NC=NC2=NC=N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1.OC(CSC1=C2NC=NC2=NC=N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C25H28N6OS.H2O/c2*32-21(16-33-25-22-24(27-17-26-22)28-18-29-25)15-30-11-13-31(14-12-30)23(19-7-3-1-4-8-19)20-9-5-2-6-10-20;/h2*1-10,17-18,21,23,32H,11-16H2,(H,26,27,28,29);1H2
